US07863271B2
A mixture of methyl 2-chlorobenzoxazole-4-carboxylate (750 mg, 3.54 mmol) and piperazin-2-one (780 mg, 7.79 mmol) in THF (60 mL) was stirred at ambient temperature overnight. The reaction mixture was diluted with EtOAc (150 mL) and 1 N HCl (25 ml). The aqueous layer was separated, basified with 1 N NaOH and extracted with EtOAc (6×50 mL). The combined organic extracts were dried (Na2SO4) and concentrated under reduced pressure to give methyl 2-(3-oxopiperazine-1-yl)benzoxazole-4-carboxylate (690 mg, 72%). 1H NMR consistent.

reactant | methyl 2-chlorobenzoxazole-4-carboxylate | 3.54 mmol, 750 mg | ClC=1OC=2C(N1)=C(C=CC2)C(=O)OC | C9H6ClNO3
reactant | piperazin-2-one | 7.79 mmol, 780 mg | N1C(CNCC1)=O | C4H8N2O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
solvent | HCl | 1 N, 25 ml | Cl | ClH
product | methyl 2-(3-oxopiperazine-1-yl)benzoxazole-4-carboxylate | 690 mg, 72% | O=C1CN(CCN1)C=1OC=2C(N1)=C(C=CC2)C(=O)OC | C13H13N3O4
